US05599796
2,4-Di(trimethylsilyl)-5-ethynylpyrimidine.
A suspension of 5-ethynyluracil (0.5 g, 3.65 mmol) in anhydrous 1,1,1,3,3,3-hexamethyldisilazane (50 ml) was stirred at 120° C. for 5 hours. The resulting clear solution was distilled under vacuum and kept under argon and used without purification for the next reaction.

reactant | 5-ethynyluracil | 3.65 mmol, 0.5 g | C(#C)C=1C(NC(NC1)=O)=O | C6H4N2O2
reactant | 1,1,1,3,3,3-hexamethyldisilazane | 50 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
product | 2,4-Di(trimethylsilyl)-5-ethynylpyrimidine | C[Si](C1=NC=C(C(=N1)[Si](C)(C)C)C#C)(C)C | C12H20N2Si2
